US04940710
7-[3-[(Dodecyloxy)methyl]-4-methyl-1-piperazinyl]-1-ethyl-6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid
A 300 mg portion of 7-[3-[(dodecyloxy)methyl]-1-piperazinyl]-1-ethyl-6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid was dissolved in a mixture of 1.2 ml of 37% formaldehyde and 1.5 ml of 90% formic acid, heated on a steam bath for 45 minutes and then evaporated in vacuo. A 5 ml portion of water was added, the solution neutralized with aqueous sodium hydroxide and the solid collected, washed with water and dried, giving 260 mg of the desired product, mp 166°-168° C.

reactant | 7-[3-[(dodecyloxy)methyl]-1-piperazinyl]-1-ethyl-6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | C(CCCCCCCCCCC)OCC1CN(CCN1)C1=C(C=C2C(C(=CN(C2=C1)CC)C(=O)O)=O)F | C29H44FN3O4
reactant | formaldehyde | 1.2 ml | C=O | CH2O
solvent | formic acid | 1.5 ml | C(=O)O | CH2O2
product | 7-[3-[(Dodecyloxy)methyl]-4-methyl-1-piperazinyl]-1-ethyl-6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | 260 mg | C(CCCCCCCCCCC)OCC1CN(CCN1C)C1=C(C=C2C(C(=CN(C2=C1)CC)C(=O)O)=O)F | C30H46FN3O4
